Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5][H:6].[H:1][C:2]/[C:3]([H:4])=[C:7]/[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],8.082786131830003
[H:14].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.90922345192
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.08403455506
[H:1][C:2][O:3]/[C:4](=[C:5]\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12],-4.86399027547
[H:13].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.57925491649
[H:1][C:2]#[C:3][C:4]([O:5][O:6][H:7])=[C:8]([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]([O:5][O:6])=[C:8]([H:9])[H:10].[H:7],3.6725893135300023
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]#[C:7][H:8]>>[C:1]#[C:2][O:3][C:4]([H:5])=[C:6].[C:7][H:8],9.35443334395
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:3]#[C:4][C:5]([H:6])([H:7])[O:8][H:9].[H:1][O:2],6.868297416900001
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.82079561167
[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3][C:4][C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:5],4.557668490069999
[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[C:10]=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9],0.77545264551
[H:8].[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]=[O:7])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6](=[O:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.97600531791
[C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9],-5.83241179892
[H:11].[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.11866745337
[O:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[C:3]=[C:4]([H:5])[H:6].[O:1]=[C:2],2.50040770901
[H:4].[O:1]=[C:2]([H:3])/[C:5](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[O:1][C:2]([H:3])([H:4])/[C:5](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.847238084586
[H:1][C:2]([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])=[O:13]>>[H:1][C:2]1([H:3])[O:4][C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[O:13]1,1.23122831992
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[O:9]=[C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12],-1.3193819018600002
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10].[H:11],1.51848322372
[C:1]/[C:2]([O:3][H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],4.595041715990001
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],4.812121255319999
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4][H:5].[O:6]=[C:7]=[C:8]([H:9])[H:10],0.83260347817
[H:1][C:2]#[C:3][C:4][O:5][H:6].[O:7][H:8]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[O:7][H:8],-5.16506524607
[H:12].[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])=[C:10](/[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([C:3]([H:4])([H:5])[C:6]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.98055662694
[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3](=[C:5]\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],2.8985256033999995
[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1],3.772919367
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][H:7]>>[C:2][C:3]([H:4])([H:5])[O:6][H:7].[O:1],8.0229376144
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]=[C:4]([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:3],5.117941754009999
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:13][H:14]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.32281091698
[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7].[H:8],5.12139342808
